US05559224
To 3.74 g of 1-(p-methoxybenzyloxycarbonyl)-4-(2-(p-nitrobenzyloxycarbonyl)aminoacetyl)piperazine were added 4.17 ml of anisole and, with cooling on an ice bath, 20 ml of trifluoroacetic acid, followed by 1 hour of reaction at room temperature. After removing trifluoroacetic acid by evaporation under a reduced pressure, the residue was adjusted to basic with a sodium hydroxide aqueous solution and extracted with chloroform, and an organic layer was washed with water and dried over sodium sulfate, followed by removal of the solvent under a reduced pressure and subsequent addition of n-hexane to a residue to collect a solid material by filtration, thereby obtaining 2.45 g of 1-(2-(p-nitrobenzyloxycarbonyl)aminoacetyl)piperazine.

reactant | 1-(p-methoxybenzyloxycarbonyl)-4-(2-(p-nitrobenzyloxycarbonyl)aminoacetyl)piperazine | 3.74 g | COC1=CC=C(COC(=O)N2CCN(CC2)C(CNC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C23H26N4O8
reactant | anisole | 4.17 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(2-(p-nitrobenzyloxycarbonyl)aminoacetyl)piperazine | 2.45 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCC(=O)N2CCNCC2)C=C1 | C14H18N4O5
